US07521529B2
Fmoc-protected cysteine (FIG. 3, structure B) was synthesized in a two step sequence from L-cystine as outlined in FIG. 4. Sodium carbonate (4.6 g, 43.6 mmol) and L-cystine (5.0 g, 20.8 mmol) were dissolved in water (200 mL). The resulting solution was cooled to 10° C. FmocCl (11.85 g, 45.8 mmol) was dissolved in dioxane (80 mL), and the resulting solution was added dropwise to the aqueous solution of L-cystine. The solution was stirred for 2 h at 10° C. and allowed to gradually warm to room temperature. A thick white precipitate was obtained that was filtered onto a sintered glass funnel. The product was triturated with diethyl ether (50 mL) and dried in vacuuo for 2 d. N,N′-Bis(Fmoc)-L-cystine (14.0 g, 98% yield) was obtained as a white powder.

reactant | L-cystine | C([C@@H](C(=O)O)N)SSC[C@@H](C(=O)O)N | C6H12N2O4S2
reactant | Sodium carbonate | 43.6 mmol, 4.6 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | L-cystine | 20.8 mmol, 5.0 g | C([C@@H](C(=O)O)N)SSC[C@@H](C(=O)O)N | C6H12N2O4S2
reactant | FmocCl | 45.8 mmol, 11.85 g | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)Cl | C15H11ClO2
solvent | water | 200 mL | O | H2O
solvent | dioxane | 80 mL | O1CCOCC1 | C4H8O2
product | N,N′-Bis(Fmoc)-L-cystine | 14.0 g, 98% yield | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N[C@@H](CSSC[C@@H](C(=O)O)NC(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12)C(=O)O | C36H32N2O8S2
